US07553862B2
250 mL of concentrated HCl were added 1-(3,4-dichloro-phenyl)-3-(2-oxo-2-phenyl-ethyl)urea (1 equiv., 56 mmol, 18.0 g) at room temperature. The reaction mixture was stirred for one week until starting material disappeared giving a white foam which was filtered off. This foam was purified by recrystallization in ethanol affording 1-(3,4-dichloro-phenyl)-5-phenyl-1,3-dihydro-imidazol-2-one (14.4 g, 85%) as a white solid. Rf 0.2 (n-heptane/ethyl acetate 2:1). δH NMR (DMSO, 300 MHz) 10.68 (1H, br s, NH), 7.62 (1H, d, J=8.6 Hz, H arom), 7.53 (1H, d, J=2.4 Hz, H arom), 7.32-7.20 (3H, m, H arom), 7.09-7.06 (2H, m, H arom), 7.03 (1H, dd, J=8.6, 2.5 Hz, H arom), 6.89 (1H, s, ═CH); m/z (EI) 309.2 (21%), 307.2 (97), 306.1 (24), 305.1 (100, M+H+).

reactant | 1-(3,4-dichloro-phenyl)-3-(2-oxo-2-phenyl-ethyl)urea | 56 mmol, 18.0 g, 1 equiv. | ClC=1C=C(C=CC1Cl)NC(=O)NCC(C1=CC=CC=C1)=O | C15H12Cl2N2O2
solvent | HCl | 250 mL | Cl | ClH
product | 1-(3,4-dichloro-phenyl)-5-phenyl-1,3-dihydro-imidazol-2-one | 14.4 g, 85% | ClC=1C=C(C=CC1Cl)N1C(NC=C1C1=CC=CC=C1)=O | C15H10Cl2N2O
